US06117412
2-(4-Bromophenyl)-4,4-dimethyl-2-oxazoline
4-Bromobenzoyl chloride (20.02 g, 91 mmol) was dissolved in dichloromethane (180 ml) and added dropwise to a solution of 2-amino-2-methyl-1-propanol (19.20 g, 216 mmol) in dichloromethane (90 ml) at ambient temperature. The mixture was stirred for 24 hours at ambient temperature, followed by filtration and removal of the solvent at reduced pressure. Thionyl chloride (90 ml) was added dropwise and the mixture was stirred for 30 minutes at ambient temperature. Excess thionyl chloride was removed at reduced pressure and the residue was added to an aqueous HCl-solution (5%, 500 ml). The solution was washed with ether (2×100 ml) and aqueous NaOH (50%) was added to pH 9. The basic solution was extracted with ether (3×100 ml), and the combined ether solution was washed with water (50 ml) and saturated aqueous NaCl-solution. The dried (MgSO4) ether solution was evaporated and the title compound isolated by distillation. Yield 14.14 g (61%), b.p. 128-130° C. (1 mm Hg).

reactant | 4-Bromobenzoyl chloride | 91 mmol, 20.02 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | 2-amino-2-methyl-1-propanol | 216 mmol, 19.20 g | NC(CO)(C)C | C4H11NO
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | 2-(4-Bromophenyl)-4,4-dimethyl-2-oxazoline | BrC1=CC=C(C=C1)C=1OCC(N1)(C)C | C11H12BrNO
